US06982348B2
A mixture of ethyl 3-oxo-3-(4-trifluoromethylphenyl)propionate (38.2 g, 0.147 mol), 4-fluorobenzyl bromide (25 g, 0.13 mol), potassium carbonate (36.6 g, 0.26 mol) and acetonitrile (500 ml) was stirred at 60° C. for 3 hrs. The reaction solution was concentrated under reduced pressure, and water (500 ml) was added. The mixture was extracted with ethyl acetate (500, 200 ml). The extract was washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=50:1-10:1, hexane:toluene=1:1) and crystallized from cold hexane to give ethyl 2-((4-fluorophenyl)methyl)-3-oxo-3-(4-(trifluoromethyl)phenyl)propionate (29.5 g, 55%).

reactant | ethyl 3-oxo-3-(4-trifluoromethylphenyl)propionate | 0.147 mol, 38.2 g | O=C(CC(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C12H11F3O3
reactant | 4-fluorobenzyl bromide | 0.13 mol, 25 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | potassium carbonate | 0.26 mol, 36.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | ethyl 2-((4-fluorophenyl)methyl)-3-oxo-3-(4-(trifluoromethyl)phenyl)propionate | 29.5 g, 55% | FC1=CC=C(C=C1)CC(C(=O)OCC)C(C1=CC=C(C=C1)C(F)(F)F)=O | C19H16F4O3
